US04556677
α-Cyclopentyl-p-hydroxybutyrophenone
The mixture of 4.9 g (0.02 mol) of α-cyclopentyl-p-methoxy butyrophenone, 8.0 g (0.06 mol) of aluminium trichloride and 60 ml of benzene was refluxed for 3 hours. Dilute hydrochloric acid was added, the layers separated and the organic layer washed with water. The product was extracted with 2M sodium hydroxide. The alkaline solution was made acidic. The product was extracted with methylene chloride, dried and the solvent evaporated. The residue 4.1 g (0.018 mol, 88%) was crystallized from petroleum ether. Mp. 75°-78° C.

reactant | α-cyclopentyl-p-methoxy butyrophenone | 0.02 mol, 4.9 g | C1(CCCC1)C(C(=O)C1=CC=C(C=C1)OC)CC | C16H22O2
reactant | aluminium trichloride | 0.06 mol, 8.0 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | α-Cyclopentyl-p-hydroxybutyrophenone | C1(CCCC1)C(C(=O)C1=CC=C(C=C1)O)CC | C15H20O2
